US06235731B1
Synthesis of (E)-Ethyl 3-(3-Nitrophenyl)acrylate Sodium hydride (60% in oil, 2.22 g, 55.5 mmol) was added to a stirred solution of 3-nitrobenzaldehyde (8.00 g, 52.9 mmol) and triethyl phosphonoacetate (12.4 g, 55.5 mmol) in N,N-dimethylformamide (50 ml) at 0° C. After stirring at 0° C. for 1.5 hours, the reaction mixture was poured into water to give (E)-ethyl 3-(3-nitrophenyl)acrylate as colorless crystals (11.7 g, quant.), which were collected by filtration and washed with water and hexane.

reactant | (E)-Ethyl 3-(3-Nitrophenyl)acrylate Sodium hydride | 55.5 mmol, 2.22 g | [H-].[Na+].[N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(=O)OCC
reactant | 3-nitrobenzaldehyde | 52.9 mmol, 8.00 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (E)-ethyl 3-(3-nitrophenyl)acrylate | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(=O)OCC | C11H11NO4
